US08912180B2
To a mixture of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-(piperidin-4-ylmethyl)-1,3,5-triazin-2-amine (50 mg) and pyridine (2 mL) was added acetic anhydride (14 μL), and the mixture was stirred at room temperature overnight. To the reaction mixture was added toluene, followed by concentrating under reduced pressure. The residue was dissolved in dichloromethane, and silica gel was added thereto, followed by concentrating under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate, and subsequently chloroform:methanol) to obtain N-[(1-acetylpiperidin-4-yl)methyl]-4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-1,3,5-triazine-2-amine (44 mg) as a white powder.

reactant | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-(piperidin-4-ylmethyl)-1,3,5-triazin-2-amine | 50 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NCC1CCNCC1)C=CC=C2)F | C21H26F2N8O
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 14 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[(1-acetylpiperidin-4-yl)methyl]-4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-1,3,5-triazine-2-amine | 44 mg | C(C)(=O)N1CCC(CC1)CNC1=NC(=NC(=N1)N1C(=NC2=C1C=CC=C2)C(F)F)N2CCOCC2 | C23H28F2N8O2
